US06930106B2
2-({[2-({4-[(benzylamino)methyl]phenyl}amino)-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid [
In a small round bottom flask equipped with a stirbar, 2-({[2-{[4-(aminomethyl)phenyl]amino}-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid hydrochloride (0.2 mmol, 107 mg) is combined with benzaldehyde (0.96 mmol, 102 mg) and diluted with 1 mL acetic acid and 4 mL methanol. After 15 minutes, sodium cyanoborohydride (3.5 mmol, 0.24 mL) is added portionwise. After 20 hours, the reaction is stopped. The reaction mixture is made basic with 5N NaOH and extracted three times with ethyl acetate. The organics are combined and washed with brine then dried over MgSO4. After concentration the crude oil is purified by column chromatography (100% EtOAc) to give a white solid in low yield. 1H NMR (400 MHz, DMSO-d6): □ 10.39 (s, 1H), 7.98 (m, 1H), 7.80 (s, 1H), 7.66 (s, 1H), 7.43, (m, 14H), 4.12 (m, 4H). ESI+ for C29H22Cl2F3N3O3 m/z 588 M+.

reactant | 2-({[2-{[4-(aminomethyl)phenyl]amino}-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid hydrochloride | 0.2 mmol, 107 mg | Cl.NCC1=CC=C(C=C1)NC1=C(C=C(C=C1)C(F)(F)F)NC(=O)C1=C(C(=O)O)C=C(C(=C1)Cl)Cl
reactant | benzaldehyde | 0.96 mmol, 102 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 3.5 mmol, 0.24 mL | C(#N)[BH3-].[Na+]
reactant | NaOH | 5N | [OH-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 4 mL | CO | CH4O
product | 2-({[2-({4-[(benzylamino)methyl]phenyl}amino)-5-(trifluoromethyl)phenyl]amino}carbonyl)-4,5-dichlorobenzoic acid | C(C1=CC=CC=C1)NCC1=CC=C(C=C1)NC1=C(C=C(C=C1)C(F)(F)F)NC(=O)C1=C(C(=O)O)C=C(C(=C1)Cl)Cl | C29H22Cl2F3N3O3
